US05489693
1-[4-(Allyloxycarbonyl-amidino)-phenyl]-4-methoxy-3-[4-[2-[(pivaloyloxymethyl)-oxycarbonyl]-ethyl]-phenyl]-3-pyrrolin-2-one
Prepared by stirring a suspension of 1-[4-(allyloxycarbonyl-amidino)-phenyl]-3-[4-(2-carboxy-ethyl)-phenyl]-4-methoxy-3-pyrrolin-2-one, 2 equivalents of chloromethyl pivalate, 2 equivalents of potassium iodide, 2 equivalents of potassium hydrogen carbonate and 2 equivalents of potassium carbonate in dimethylformamide at ambient temperature for three days.

reactant | 1-[4-(allyloxycarbonyl-amidino)-phenyl]-3-[4-(2-carboxy-ethyl)-phenyl]-4-methoxy-3-pyrrolin-2-one | C(C=C)OC(=O)NC(=N)C1=CC=C(C=C1)N1C(C(=C(C1)OC)C1=CC=C(C=C1)CCC(=O)O)=O | C25H25N3O6
reactant | chloromethyl pivalate | 2 equivalents | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | potassium iodide | 2 equivalents | [I-].[K+]
reactant | potassium hydrogen carbonate | 2 equivalents | C(O)([O-])=O.[K+]
reactant | potassium carbonate | 2 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-(Allyloxycarbonyl-amidino)-phenyl]-4-methoxy-3-[4-[2-[(pivaloyloxymethyl)-oxycarbonyl]-ethyl]-phenyl]-3-pyrrolin-2-one | C(C=C)OC(=O)NC(=N)C1=CC=C(C=C1)N1C(C(=C(C1)OC)C1=CC=C(C=C1)CCC(=O)OCOC(C(C)(C)C)=O)=O | C31H35N3O8
